US07074801B1
1-[4-(2-Trimethylsilanylethoxymethoxy)phenyl]ethanone
While 30 mL solution of 2.72 g 4-hydroxyacetophenone and 5.2 mL diisopropyl ethylamine in dichloromethane was stirred under ice-cooling in a stream of nitrogen, 4.2 mL 2-(trimethylsilyl)ethoxymethyl chloride was added thereto. Then, the reaction solution was stirred at room temperature for 4 hours. The reaction solution was evaporated, then ethyl acetate and water were added to the residue, the organic layer was separated, washed with brine and dried over anhydrous sodium sulfate. The drying agent was filtered off, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give 5.22 g of the title compound as a colorless oil.

reactant | 4-hydroxyacetophenone | 2.72 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | diisopropyl ethylamine | 5.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 4.2 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[4-(2-Trimethylsilanylethoxymethoxy)phenyl]ethanone | 5.22 g | C[Si](CCOCOC1=CC=C(C=C1)C(C)=O)(C)C | C14H22O3Si
